US05219871
Preparation of 2,2-diphenyl-5-[N-(4-methanesulphonamidophenethyl)-N-methylamino]pentanamide
A mixture of 2,2-diphenyl-5-methylaminopentanamide (0.3 g-see Preparation 3), N-[4-(2-methanesulphonyloxyethyl)phenyl]methanesulphonamide (0.3 g-see Preparation 18), sodium bicarbonate (0.5 g) and acetonitrile (10 ml) was heated under reflux for 8 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.12 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.3 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | N-[4-(2-methanesulphonyloxyethyl)phenyl]methanesulphonamide | 0.3 g | CS(=O)(=O)OCCC1=CC=C(C=C1)NS(=O)(=O)C | C10H15NO5S2
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(4-methanesulphonamidophenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC=C(C=C1)NS(=O)(=O)C)C1=CC=CC=C1 | C27H33N3O3S
